US06900347B2
FIG. 4 shows the reaction path for producing E-11-hexdecenyl acetate. To a dry 50-mL round-bottomed flask is added 4.5 g (0.026 mol) 7-octenyl acetate, 3.3 g (0.026 mol) 1,2-epoxy-5-cyclooctene and a magnetic stir bar. The solution is cooled to 0° C. and sparged with nitrogen for 10 minutes. Grubbs catalyst 848 (1.12 g, 1.31 mmol) is added and the reaction is stirred at 0° C. for 24 hours. The reaction is quenched by addition of 15 ml of 2M THP in IPA solution, warmed to 60° C. with stirring for 24 hours. Water (5 mL) is added and stirred vigorously for 10 minutes. The aqueous layer is separated, and the product washed with brine solution and dried over sodium sulfate. The product is purified by vacuum distillation, and then hydrogenated using 10% palladium on carbon with a 5 psi overpressure of hydrogen. The catalyst is filtered off without further purification. The epoxide is converted to the trans olefin as described in J. Amer. Chem. Soc. 98, 1265 (1976); J. Org. Chem. 41, 3063 (1976); Chem. Commun. 168 (1980)). 11,12-Epoxy-hexadecyl acetate is treated with 3.87 g (0.026 mol) hexamethyldisilane and 3.34 g (0.026 mol) potassium methoxide at room temperature (about 25° C.). The solution is warmed to 50° C. and stirred until the starting materials are consumed. The mixture is quenched with water and the organic phase is washed with 1 M hydrochloric acid, saturated aqueous solution of sodium bicarbonate, and finally brine. The organic phase is dried over sodium sulfate and vacuum distilled to yield E-11-hexadecenyl acetate.

reactant | 7-octenyl acetate | 0.026 mol, 4.5 g | C(C)(=O)OCCCCCCC=C | C10H18O2
reactant | 1,2-epoxy-5-cyclooctene | 0.026 mol, 3.3 g | O1C2C1CCC=CCC2 | C8H12O
reactant | 11,12-Epoxy-hexadecyl acetate | C(C)(=O)OCCCCCCCCCCC1C(CCCC)O1 | C18H34O3
reactant | hexamethyldisilane | 0.026 mol, 3.87 g | C[Si]([Si](C)(C)C)(C)C | C6H18Si2
reactant | potassium methoxide | 0.026 mol, 3.34 g | C[O-].[K+]
catalyst | Grubbs catalyst | 1.31 mmol, 1.12 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | E-11-hexadecenyl acetate | C(C)(=O)OCCCCCCCCCC\C=C\CCCC | C18H34O2
